US06080754
The general synthetic pathway outlined in example 1, step 1-2, have been applied to proper starting materials in the preparation of ethyl 4-(1-ethylindolizine-2-yl)benzoate, which was reduced with lithium aluminium hydride by the general synthetic principles outlined in example 1, step 4, to afford 1-ethyl-2-(4-hydroxymethylphenyl)indolizine in 94% yield. 1H-NMR (CDCl3, 200 MHz) δ: 1.20 (t, 3H); 2.88 (q, 2H); 4.72 (s, 2H); 6.41 (ddd, 1H); 6.61 (ddd, 1H); 7.29-7.52 (m, 6H); 7.83 (d, 1H).

reactant | ethyl 4-(1-ethylindolizine-2-yl)benzoate | C(C)C=1C(=CN2C=CC=CC12)C1=CC=C(C(=O)OCC)C=C1 | C19H19NO2
reactant | lithium aluminium hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
product | 1-ethyl-2-(4-hydroxymethylphenyl)indolizine | 94% yield | C(C)C=1C(=CN2C=CC=CC12)C1=CC=C(C=C1)CO | C17H17NO
